US07781441B2
d) (4-Methyl-7-trifluoromethyl-3,4-dihydro-quinazolin-2-yl)-(2-phenoxy-ethyl)-amine
4-Methyl-2-methylsulfanyl-7-trifluoromethyl-3,4-dihydro-quinazoline hydroiodide (116 mg, 0.30 mmol) and 2-phenoxyethyl amine (126 mg, 0.9 mmol) were dissolved in acetonitrile (0.9 ml) and heated to 170° C. in a sealed tube in a microwave oven for 30 minutes. After cooling the reaction was treated with 1N aqueous sodium hydroxide solution, methylene chloride and 5 to 7 drops of 30% aqueous hydrogen peroxide solution. After the reaction has ceased the reaction was diluted with little water and the precipitated product was filtered off, washed with water, dried in vacuo to yield the title compound as a white solid (104 mg, 94%).

reactant | 4-Methyl-2-methylsulfanyl-7-trifluoromethyl-3,4-dihydro-quinazoline hydroiodide | 0.30 mmol, 116 mg | I.CC1NC(=NC2=CC(=CC=C12)C(F)(F)F)SC
reactant | 2-phenoxyethyl amine | 0.9 mmol, 126 mg | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 0.9 ml | C(C)#N | C2H3N
catalyst | hydrogen peroxide | 5 to 7 drops | OO | H2O2
solvent | water | O | H2O
product | (4-Methyl-7-trifluoromethyl-3,4-dihydro-quinazolin-2-yl)-(2-phenoxy-ethyl)-amine | 104 mg, 94% | CC1NC(=NC2=CC(=CC=C12)C(F)(F)F)NCCOC1=CC=CC=C1 | C18H18F3N3O
